US07338965B2
The (+/−)-tert-butyl (3S,4S)-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-hydroxypiperidine-1-carboxylate (206 mg, 0.51 mmol), 1′-biphenyl-4-carbonyl chloride (540 mg, 2.50 mmol), triethylamine (400 mg, 4.00 mmol), and a catalytic amount of dimethylaminopyridine (10.0 mg, 0.08 mmol) was mixed together in acetonitrile (10.0 mL) at room temperature for 16 H. Ammonium hydroxide solution (5 mL) was added to the solution and it was stirred for 1 H. The heterogeneous solution was poured into ethyl acetate (50 mL) and hexanes (5 mL). The solution was extracted with 1N aqueous hydrochloric acid (2×10 mL), extracted with saturated aqueous sodium bicarbonate (2×10 mL), and extracted with saturated with saturated aqueous ammonium chloride (2×10 mL). The solution was dried over sodium sulfate and solvent removed at reduced pressure. The (+/−)-tert-butyl (3R,4R)-3-[(1,1′-biphenyl-4-ylcarbonyl)oxy]-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)piperidine-1-carboxylate (164 mg, 0.28 mmol) was isolated as a semisolid by radial silica gel chromatography (25% ethyl acetate/hexanes). HRMS m/z 588.3150 (calcd for M+H 588.3140.)

reactant | (+/−)-tert-butyl (3S,4S)-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-hydroxypiperidine-1-carboxylate | 0.51 mmol, 206 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)[C@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)O | C22H37NO4Si
reactant | triethylamine | 4.00 mmol, 400 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.08 mmol, 10.0 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | (+/−)-tert-butyl (3R,4R)-3-[(1,1′-biphenyl-4-ylcarbonyl)oxy]-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)piperidine-1-carboxylate | 0.28 mmol, 164 mg | C1(=CC=C(C=C1)C(=O)O[C@H]1CN(CC[C@@H]1C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C35H45NO5Si
